US09023846B2
5-tert-Butyl-4-methoxy-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (52.8 mg, 0.220 mmol, prepared as described in the previous step) was dissolved in MeOH (1 mL) then 2 M NaOH (143 μL, 0.286 mmol) was added. The resulting mixture was stirred at room temperature for 18 h and the solvent was removed under reduced pressure. The residue was dissolved in H2O (10 mL) and acidified to pH˜2 using 3 M HCl. The aqueous layer was extracted with EtOAc (3×5 mL) and the combined organic extracts were dried over MgSO4 and filtered. The solvent was removed under reduced pressure to yield 5-tert-butyl-4-methoxy-2-methyl-2H-pyrazole-3-carboxylic acid. 1H-NMR (400 MHz, CDCl3) δ: 11.65 (br. s., 1H), 4.08 (s, 3H), 3.89 (s, 3H), 1.37 (s, 9H).

reactant | 5-tert-Butyl-4-methoxy-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1OC)C(C)(C)C)C | C12H20N2O3
reactant | NaOH | 0.286 mmol, 2 M, 143 μL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 5-tert-butyl-4-methoxy-2-methyl-2H-pyrazole-3-carboxylic acid | C(C)(C)(C)C=1C(=C(N(N1)C)C(=O)O)OC | C10H16N2O3
